US08008307B2
Step b: {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(8-phenyl-9H-purin-6-yl)-oxy]cyclopentyl}methanol
A suspension of 9-benzyl-6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-8-phenyl-9H-purine (0.161 g, 0.000249 mol), 10% Pd/C (0.04 g, 0.00004 mol) and formic acid (0.1 mL, 0.003 mol) in methanol (11.0 mL, 0.272 mol) was stirred under an atmosphere of nitrogen overnight. Added formic acid (0.2 mL, 0.005 mol) and 10% Pd/C (0.04 g, 0.00004 mol) to the reaction and stirred 24 h. Added 10% Pd/C (0.060 g, 0.000056 mol) and formic acid (0.2 mL, 0.005 mol) to the reaction and stirred an additional 24 h. The reaction was purged with nitrogen and filtered the mixture through celite with DCM. The filtrate was concentrated, purified by flash chromatography (30 to 50% ethyl acetate/hexane) to obtain 30 mg (27%). LC/MS: Rt=2.08 min, ES+ 441.18 (AA standard).

reactant | 9-benzyl-6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-8-phenyl-9H-purine | 0.000249 mol, 0.161 g | C(C1=CC=CC=C1)N1C2=NC=NC(=C2N=C1C1=CC=CC=C1)O[C@H]1C[C@@H]([C@@H](C1)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C36H52N4O3Si2
reactant | formic acid | 0.003 mol, 0.1 mL | C(=O)O | CH2O2
reactant | methanol | 0.272 mol, 11.0 mL | CO | CH4O
reactant | formic acid | 0.005 mol, 0.2 mL | C(=O)O | CH2O2
reactant | formic acid | 0.005 mol, 0.2 mL | C(=O)O | CH2O2
catalyst | Pd/C | 0.00004 mol, 0.04 g | [Pd] | Pd
catalyst | Pd/C | 0.00004 mol, 0.04 g | [Pd] | Pd
catalyst | Pd/C | 0.000056 mol, 0.060 g | [Pd] | Pd
product | {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(8-phenyl-9H-purin-6-yl)-oxy]cyclopentyl}methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)OC1=C2N=C(NC2=NC=N1)C1=CC=CC=C1)CO | C23H32N4O3Si
